US05665718
7.8 g (15.9 mmol) of crude (S)-1-[5-(N-BOC-aminomethyl)-1,2,4-oxadiazol-3-yl]-8-trifluoromethyl-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one and 30 ml of trifluoroacetic acid were stirred at room temperature for 1hour. The solution was evaporated. The residue was dissolved in water and washed three times with methylene chloride. The aqueous phase was made alkaline with conc. ammonia and extracted nine times with ethyl acetate (a total of about 1 I). By evaporating the organic phases, combined and dried over magnesium sulfate, there were obtained 4.57 g (73%) of (S)-1-(5-aminomethyl-1,2,4-oxadiazol-3-yl)-8-trifluoromethyl-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one, which was used without further purification as the starting material for the Example described hereinafter.

reactant | (S)-1-[5-(N-BOC-aminomethyl)-1,2,4-oxadiazol-3-yl]-8-trifluoromethyl-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 15.9 mmol, 7.8 g | C(=O)(OC(C)(C)C)NCC1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3C(F)(F)F)=O)CC1 | C22H21F3N6O4
solvent | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-1-(5-aminomethyl-1,2,4-oxadiazol-3-yl)-8-trifluoromethyl-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 4.57 g, 73% | NCC1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3C(F)(F)F)=O)CC1 | C17H13F3N6O2
